US07528156B2
N-[4-Methyl-2-(2-oxiranylmethoxy)phenyl]acetamide
A mixture of N-(2-hydroxymethylphenyl)acetamide (10 g, 60 mmol), 2-(bromomethyl)oxirane (9.86 g, 72 mmol, 6.0 ml) and potassium carbonate (16.8 g, 120 mmol) in DMF (100 ml) was heated at 55° C. for 2 h. Then the reaction mixture was diluted with ethyl acetate and washed with aq. HCl (1.5%), aq sat. NaHCO3, and brine. Evaporation of the solvent and flash chromatography on silica gel with n-heptane/ethyl acetate (ethyl acetate from 35 to 70%) afforded the title compound (5.65 g, 25 mmol, 43%).

reactant | N-(2-hydroxymethylphenyl)acetamide | 60 mmol, 10 g | OCC1=C(C=CC=C1)NC(C)=O | C9H11NO2
reactant | 2-(bromomethyl)oxirane | 72 mmol, 6.0 ml, 9.86 g | BrCC1OC1 | C3H5BrO
reactant | potassium carbonate | 120 mmol, 16.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-Methyl-2-(2-oxiranylmethoxy)phenyl]acetamide | 25 mmol, 5.65 g, 43% | CC1=CC(=C(C=C1)NC(C)=O)OCC1OC1 | C12H15NO3
